US09145414B2
10% Palladium on carbon (1 g) was added to a solution of 2-(tert-butyl)-6-nitro-2H-indazole obtained in the above-described Step (1.1 g) in ethyl acetate (12 mL), and the reaction solution was stirred under hydrogen atmosphere at room temperature for 4 hours. The insolubles were filtrated, and the solvent was evaporated under vacuum. Thereafter, the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 2-(tert-butyl)-2H-indazol-6-amine as a white solid.

reactant | 2-(tert-butyl)-6-nitro-2H-indazole | C(C)(C)(C)N1N=C2C=C(C=CC2=C1)[N+](=O)[O-] | C11H13N3O2
catalyst | Palladium on carbon | 1 g | [Pd] | Pd
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
product | 2-(tert-butyl)-2H-indazol-6-amine | C(C)(C)(C)N1N=C2C=C(C=CC2=C1)N | C11H15N3
